Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Double vision and weakness
 
Major Surgical or Invasive Procedure:
TEE

 
History of Present Illness:
Mr. ___ is a ___ year old man with PMH of former smoker who 
presents with diplopia, L facial droop from OSH. Last known well 
was 11:30 am per patient. 

For the past 2 days, patient felt like he has had the flu with 
fatigue and diarrhea multiple times. He felt normal when he woke 
up this morning on ___. He was watching TV and took a nap around 
11:30 am. He woke up at noon and noticed horizontal diplopia, 
which goes away when either eye is covered. He was brought to 
OSH ED, which gave him NIHSS of 1 or 2 for left facial droop.  

He feels unsteady when he stands or tries to walk. He feels like 
he is falling towards the left. He has subjective numbness like 
"novacaine" in R V2, V3 distributions, but intact and equal on 
testing. He had subjective fever and chills yesterday at home. 

He reports history of concussion in high school without residual 
deficits. 

ROS: 
On neurological review of systems, the patient denies headache, 
confusion, difficulties producing or comprehending speech, loss 
of vision, blurred vision, dysarthria, dysphagia, 
lightheadedness, vertigo, tinnitus or hearing difficulty. Denies 
focal weakness. No bowel or bladder incontinence or retention.  
 
On general review of systems, the patient denies recent recent 
weight changes. Denies cough, shortness of breath, chest pain or 
tightness, palpitations.  Denies nausea, vomiting, constipation 
or abdominal pain.  Denies dysuria, or recent change in bowel or 
bladder habits. Denies arthralgias, myalgias, or rash.
 
Past Medical History:
Hypercholesterolemia 
 
Social History:
___
Family History:
Father had lung cancer and was smoker. 
Maternal Grandmother had stroke and DM2.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION: 
===============================
Vitals: T: 98.6  HR: 65  BP: 133/89  RR: 14  SaO2: 97% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented self, ___, thinks it is 
___.
Able to relate history without difficulty. Attentive, able to
name ___ backward without difficulty. Language is fluent with
intact repetition and comprehension. Normal prosody. There were
no paraphasic errors. Able to name both high and low frequency
objects.  Able to read without difficulty. No dysarthria. Able 
to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. R CNIII palsy, no
nystagmus. R exotropia. R eye can only abduct. VFF to
confrontation.  
V: Facial sensation intact to light touch and pinprick.
VII: L facial weakness on activation. 
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. L pronation with drift.
No adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick, temperature, 
throughout. Extinction to DSS on L face and LUE. Romberg
positive, falling to the L.

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Subtle slower finger-tap on
L. Dysmetria on FNF on L hand. No dysmetria on HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm 
swing. Appears unsteady, lists to the L. 

DISCHARGE EXAM:
===============
VS: Temp: 98.1 (Tm 98.2), BP: 127/72 (114-147/72-84), HR: 62 
(62-71), RR: 18, O2 sat: 95% (94-97), O2 delivery: Ra  
Exam
General: No apparent distress. Sitting up in bed and cooperative 
with exam. Eye patch on right eye. 
HEENT: Normocephalic, atraumatic. Neck supple. No 
lymphadenopathy or nuchal rigidity. 
Pulmonary: Normal work of breathing.
Cardiac: warm, well-perfused.
Abdomen: Soft, non-distended, non-tender. 
Extremities: No ___ edema.
Skin: clubbing, cyanosis or rash. 
 
Neurologic:
Mental status: A&O. Speech is fluent with no dysarthria or 
paraphasic errors. 

Cranial Nerves:
II, III, IV, VI:  EOM of the left eye intact. R-eye with 
impaired adduction, elevation and descent. Diplopia resolves 
with eye patch. R sided ptosis noted at rest overall improved.
V: Facial sensation intact to light touch bilaterally. 
VII: Mild L facial weakness in the perioral region on 
activation.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: Normal trapezii strength bilaterally.
XII: Tongue protrudes in midline. 

Motor: Normal bulk and tone throughout. No pronator drift Mild 
weakness in the left deltoid and wrist on extension.  

Sensory: intact to light touch in the upper and lower 
extremities. does not extinguish to DSS.

Coordination: Dysmetria with FNF on the left with overshoot on 
mirroring. No intention tremor noted. Mild abnormal rhythm with 
fingering tapping on the L. 

 
Pertinent Results:
ADMISSION LABS
==============
___ 12:30AM BLOOD WBC: 6.1 RBC: 4.72 Hgb: 14.2 Hct: 42.4
MCV: 90 MCH: 30.1 MCHC: 33.5 RDW: 12.2 RDWSD: 39.___ 
___ 12:30AM BLOOD Neuts: 59.1 Lymphs: ___ Monos: 10.9 Eos:
3.8 Baso: 0.3 Im ___: 0.2 AbsNeut: 3.59 AbsLymp: 1.56 AbsMono:
0.66 AbsEos: 0.23 AbsBaso: 0.02 
___ 12:30AM BLOOD Glucose: 94 UreaN: 16 Creat: 0.9 Na: 143
K: 4.1 Cl: 106 HCO3: 26 AnGap: 11 
___ 12:30AM BLOOD ALT: 27 AST: 30 AlkPhos: 60 TotBili: 0.5 
___ 12:30AM BLOOD ALT: 27 AST: 30 AlkPhos: 60 TotBili: 0.5 
___ 12:30AM BLOOD cTropnT: <0.01 
___ 12:30AM BLOOD Albumin: 4.1 
___ 03:03AM BLOOD %HbA1c: 5.4 eAG: 108 
___ 12:30AM BLOOD ASA: NEG Ethanol: NEG Acetmnp: NEG
Tricycl: NEG 
___ 12:41AM BLOOD Creat: 0.9 

MRI brain ___
=============
Late acute infarcts involving the right cerebral peduncle and
right thalamus.  No evidence of intracranial hemorrhage or 
associated mass effect at this time. 

CTA ___
=======
Noncontrast CT head: No large territorial infarction or acute
intracranial hemorrhage. CTA head and neck: No high-grade 
stenosis, occlusion or aneurysm of the major vessels the head 
neck. Specifically, no right PCOM aneurysm. Visualized lung 
apices are unremarkable. Visualized thyroid gland is 
unremarkable. 

DISCHARGE LABS:
===============
___ 06:34AM BLOOD WBC-6.8 RBC-4.86 Hgb-14.9 Hct-43.9 MCV-90 
MCH-30.7 MCHC-33.9 RDW-11.8 RDWSD-38.5 Plt ___
___ 06:34AM BLOOD Glucose-98 UreaN-18 Creat-1.0 Na-145 
K-4.3 Cl-109* HCO3-23 AnGap-13
___ 06:24AM BLOOD ALT-25 AST-22 LD(LDH)-174 AlkPhos-62 
TotBili-0.5
___ 06:34AM BLOOD Calcium-9.2 Phos-3.7 Mg-2.2
___ 06:24AM BLOOD Triglyc-176* HDL-34* CHOL/HD-4.2 
LDLcalc-74
___ 03:03AM BLOOD %HbA1c-5.4 eAG-108
 
Brief Hospital Course:
PATIENT SUMMARY:
================
Mr. ___ is a ___ year old man with no significant PMH, former 
smoker who was transferred from an outside hospital with 
diplopia and left facial droop. Exam was notable for right CN 
III palsy, anisocoria w/ right pupil larger than the left and 
left sided ataxia. Brain MRI showed right midbrain and thalamus 
strokes. TEE was performed which showed a small PFO but no left 
atrial appendage thrombus. Etiology likely cardioembolic. 

Risk factors for stroke included:

Cholest: 143 Triglyc: 176* HDL: 34* CHOL/HD: 4.2 LDLcalc: 74 
%HbA1c: 5.4 
 
TRANSITIONAL ISSUES:
====================
[] Aspirin 81 mg daily was started, this should be continued 
indefinitely 
[] Continue Plavix 75 mg daily for 3 months (taken with the 
aspirin)
[] Follow up with neurology and primary care doctor
[] Home ___

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:  
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 74 ) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A  
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Simvastatin 40 mg PO QPM 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Clopidogrel 75 mg PO DAILY 
Take for 3 months, then STOP.  
3.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute ischemic stroke of midbrain and thalamus
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory, however decreased balance and 
strength with
respect to mobility in the setting of new oculomotor changes. 

 
Discharge Instructions:
Dear Mr. ___,  

  You were hospitalized due to symptoms of double vision and 
weakness resulting from an ACUTE ISCHEMIC STROKE, a condition 
where a blood vessel providing oxygen and nutrients to the brain 
is blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  

  Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  history of smoking, high 
cholesterol. 

We are changing your medications as follows:  
- Aspirin 81mg daily was started
- Clopidogrel (Plavix) 75 mg daily was also started. You will 
take this for 3 months together with the aspirin and then take 
just the aspirin alone.

Please take your other medications as prescribed.  

Please send in Ziopatch as directed.

 Please follow up with neurology and your primary care 
physician. 

 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

Sincerely,  

Your ___ Neurology Team  

 
Followup Instructions:
___